US06995176B2
Preparation of 3-(Phenylsulfonyl)-1-(piperidin-4-ylmethyl)-1H-indole Hydrochloride
A stirred solution of 4-[3-(phenylsulfonyl)-1H-indol-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester (500 mg, 1.10 mmol) in dioxane is treated with 4N HCl in dioxane (4.5 mL, 18 mmol), stirred for 5 h at ambient temperature and concentrated in vacuo. Crystallization of the resultant solid residue from ethanol:ether affords the title compound as a white solid, 351 mg (82% yield), mp>250° C., identified by HNMR and mass spectral analyses.

reactant | 4-[3-(phenylsulfonyl)-1H-indol-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester | 1.10 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C=C(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C25H30N2O4S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 18 mmol, 4.5 mL | O1CCOCC1 | C4H8O2
product | 3-(Phenylsulfonyl)-1-(piperidin-4-ylmethyl)-1H-indole Hydrochloride | 82% yield | Cl.C1(=CC=CC=C1)S(=O)(=O)C1=CN(C2=CC=CC=C12)CC1CCNCC1 | InChI=1S/C20H22N2O2S.ClH/c23-25(24,17-6-2-1-3-7-17)20-15-22(14-16-10-12-21-13-11-16)19-9-5-4-8-18(19)20;/h1-9,15-16,21H,10-14H2;1H
